US08476224B2
To a solution of 4-amino-cyclohexanecarboxylic acid tert-butyl ester (500 mg, 2.500 mmol) in MeOH (3 mL) is added TEA (140 uL, 1.000 mmol), MgSO4 (452 mg, 3.750 mmol), and benzaldehyde (278 uL, 2.750 mmol). The mixture stirs 1 h. The mixture is then cooled to 0° C. and NaBH4 (568 mg, 15.00 mmol) is added portionwise over 10 min. The mixture stirs 1 h at ambient temperature. Then H2O (20 mL) is added and the mixture is extracted with EtOAc (2×50 mL), dried and concentrated to affords 730 mg of 4-benzylamino-cyclohexanecarboxylic acid tert-butyl ester. LC/MS: [M+H]+ 290, Rt=0.80 min (method 6).

reactant | 4-amino-cyclohexanecarboxylic acid tert-butyl ester | 2.500 mmol, 500 mg | C(C)(C)(C)OC(=O)C1CCC(CC1)N | C11H21NO2
reactant | MgSO4 | 3.750 mmol, 452 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | benzaldehyde | 2.750 mmol, 278 uL | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH4 | 15.00 mmol, 568 mg | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | H2O | 20 mL | O | H2O
product | 4-benzylamino-cyclohexanecarboxylic acid tert-butyl ester | 730 mg | C(C)(C)(C)OC(=O)C1CCC(CC1)NCC1=CC=CC=C1 | C18H27NO2
